US05952386
To a solution of 0.15 g of 4-trifluoromethylcinnamic acid and 0.07 g of triethylamine dissolved in 5 ml of dichloromethane was added 0.14 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (WSC) hydrochloride, while stirring under ice cooling. After stirring for 30 minutes, a solution of 0.20 g of 3,5-dichloro-4-(2-aminoethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene dissolved in 5 ml of dichloromethane was added dropwise. After stirring at room temperature for 12 hours, the reaction mixture was concentrated to give a residue. The residue was subjected to silica gel chromatography, which afforded 0.20 g of 3,5-dichloro-4-(2-(4-trifluoromethylcinnamamido)ethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene (63% yield), m.p., 109.4° C.

reactant | 4-trifluoromethylcinnamic acid | 0.15 g | FC(C1=CC=C(C=CC(=O)O)C=C1)(F)F | C10H7F3O2
reactant | triethylamine | 0.07 g | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.14 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 3,5-dichloro-4-(2-aminoethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.20 g | ClC=1C=C(C=C(C1OCCN)Cl)OCC=C(Cl)Cl | C11H11Cl4NO2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3,5-dichloro-4-(2-(4-trifluoromethylcinnamamido)ethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.20 g, 63% yield | ClC=1C=C(C=C(C1OCCNC(C=CC1=CC=C(C=C1)C(F)(F)F)=O)Cl)OCC=C(Cl)Cl | C21H16Cl4F3NO3
